US08975265B2
{1-[4-(7-Hydroxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
A mixture of crude {1-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester [Int-1-A] (1.26 g) and 4-methoxypyrimidin-2-ylamine (0.67 g) in DMF (21 mL) was heated overnight at 90° C. (bath temperature). On cooling the mixture was partitioned between EtOAc and water and the organic phase washed with brine, dried and concentrated to give a mixture of the title compound and Int-2-0. Purification was achieved by preparative HPLC to give the title compound.

reactant | {1-[4-(2-bromo-2-phenyl-acetyl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 1.26 g | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C(C(C1=CC=CC=C1)Br)=O)=O | C23H26BrNO3
reactant | 4-methoxypyrimidin-2-ylamine | 0.67 g | COC1=NC(=NC=C1)N | C5H7N3O
solvent | DMF | 21 mL | CN(C)C=O | C3H7NO
product | {1-[4-(7-Hydroxy-3-phenyl-imidazo[1,2-a]pyrimidin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=CC(=N2)O)C1C1=CC=CC=C1)=O | C27H28N4O3
